* C:\users\teo\Documents\School\Particle Physics\Geiger-Counter\Geiger-Counter\Electric Circuit\Proposed_Circuit_Toharia\Geiger(1).asc
XU1 0 N006 N008 N001 N010 N006 N005 N001 NE555
V1 N001 0 9
M1 N007 N009 0 0 IRF630
L1 N004 N007 1m Ipk=0.4 Rser=1m Rpar=0
L2 N002 0 666m Rser=1m Rpar=0
D3 N002 N003 MUR460
R2 N003 0 1Meg
C1 N003 0 2n
R1 N001 N005 47k
R3 N005 N006 47k
C2 N006 0 2.2n
C3 N010 0 10n
R4 N009 N008 100
R6 N001 N004 22
C4 N001 P001 10n
D1 N007 N001 MBRS1100
R5 N001 P001 22k
.model D D
.lib C:\users\teo\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\teo\Documents\LTspiceXVII\lib\cmp\standard.mos
k1 l1 l2 1
.tran 10ms
.lib IRF630.lib
.lib NE555.sub
.backanno
.end
