* C:\users\teo\Documents\School\Particle Physics\Geiger-Counter\Geiger-Counter\Electric Circuit\Proposed_Circuit_Toharia\Geiger.asc
XU1 0 N004 N008 N001 N009 N004 N006 N001 NE555
C2 N004 0 2.2n
V1 N001 0 12v
R2 N011 N010 100
M1 N007 N011 0 0 IRF630
L1 N001 N007 0.0955 Rser=1m Rpar=0
L2 N002 N005 0.637 Rser=1m Rpar=0
R3 N004 N006 47k
R4 N006 N001 47k
C4 N009 0 22n
D2 0 N002 D
D3 N002 N003 D
C1 N003 N005 20n
C5 N005 0 20n
D5 0 N003 RRE02VSM4S
D1 N007 N001 MBRS1100
V2 N010 0 PULSE(0 9 120u 0.01u 0.01u 120u 200u 20)
.model D D
.lib C:\users\teo\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\teo\Documents\LTspiceXVII\lib\cmp\standard.mos
.model IRF840 NMOS(Level=3 Gamma=0 Delta=0 Eta=0 Theta=0 Kappa=0.2 Vmax=0 Xj=0
+ Tox=100n Uo=600 Phi=.6 Rs=6.382m Kp=20.85u W=.68 L=2u Vto=3.879
+ Rd=.6703 Rds=2.222MEG Cbd=1.415n Pb=.8 Mj=.5 Fc=.5 Cgso=1.625n
+ Cgdo=133.4p Rg=.6038 Is=56.03p N=1 Tt=710n)
k1 l1 l2 1
.tran 10ms
.lib IRF630.lib
.lib NE555.sub
.backanno
.end
